US08455491B2
Step 12.6. 2-(3,5-difluorophenyl)-3-(pyridazin-4-yl)-6-(4-pyrrolidin-1-ylpiperidin-1-yl)imidazo[1,2-b]pyridazine
A mixture of 0.090 g (0.21 mmol) of 2-bromo-3-pyridazin-4-yl-6-(4-pyrrolidin-1-ylpiperidin-1-yl)imidazo[1,2-b]pyridazine, 0.014 g (0.02 mmol) of 1,1′-bis(diphenylphosphino)ferrocenedichloropalladium and 0.043 g (0.27 mmol) of 3,5-difluorophenylboronic acid and of a 2M aqueous solution of cesium carbonate in 2 ml of dioxane is heated at 120° C. for 20 minutes in a microwave oven. 1 ml of a saturated aqueous solution of sodium chloride and 4 ml of ethyl acetate are then injected into the tube. After stirring, the organic phase is removed with a syringe and passed over a sodium sulfate cartridge. The solution is directly injected onto a silica gel column and chromatographed, elution being carried out with a mixture of 0 to 10% of methanol in dichloromethane. 0.037 g of product is thus isolated.

reactant | 2-bromo-3-pyridazin-4-yl-6-(4-pyrrolidin-1-ylpiperidin-1-yl)imidazo[1,2-b]pyridazine | 0.21 mmol, 0.090 g | BrC=1N=C2N(N=C(C=C2)N2CCC(CC2)N2CCCC2)C1C1=CN=NC=C1 | C19H22BrN7
reactant | 3,5-difluorophenylboronic acid | 0.27 mmol, 0.043 g | FC=1C=C(C=C(C1)F)B(O)O | C6H5BF2O2
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
catalyst | 1,1′-bis(diphenylphosphino)ferrocenedichloropalladium | 0.02 mmol, 0.014 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | ethyl acetate | 4 ml | C(C)(=O)OCC | C4H8O2
product | 2-(3,5-difluorophenyl)-3-(pyridazin-4-yl)-6-(4-pyrrolidin-1-ylpiperidin-1-yl)imidazo[1,2-b]pyridazine | 0.037 g | FC=1C=C(C=C(C1)F)C=1N=C2N(N=C(C=C2)N2CCC(CC2)N2CCCC2)C1C1=CN=NC=C1 | C25H25F2N7
